US08754226B2
To a solution of 2,4,5-trifluorobenzenesulfinic acid (34 g, 173 mmol), in DMF (200 mL), was added iodomethane (21.6 mL, 347 mmol), and N-ethyl-N-isopropylpropan-2-amine (60.5 mL, 347 mmol). The reaction mixture was stirred overnight at ambient temperature. The reaction was concentrated and partitioned between water and ethyl acetate and extracted with CH2Cl2. The combined organic layers were concentrated and purified over silica gel (15-100% EtOAc in hexanes) to afford 1,2,4-trifluoro-5-(methylsulfonyl)benzene (25.8 g, 123 mmol, 71% yield) as yellow solid.

reactant | 2,4,5-trifluorobenzenesulfinic acid | 173 mmol, 34 g | FC1=C(C=C(C(=C1)F)F)S(=O)O | C6H3F3O2S
reactant | iodomethane | 347 mmol, 21.6 mL | IC | CH3I
reactant | N-ethyl-N-isopropylpropan-2-amine | 347 mmol, 60.5 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 1,2,4-trifluoro-5-(methylsulfonyl)benzene | 123 mmol, 25.8 g, 71% yield | FC1=C(C=C(C(=C1)S(=O)(=O)C)F)F | C7H5F3O2S
